US04065573
A reaction mixture consisting of 1.0 gm. (0.0035 mole) of 4-methylamino-4-phenylcyclohexanone, ethylene ketal, hydrochloride (prepared in Example 17, Part G, above) 2.0 ml. of 2.5 N hydrochloric acid, and 20 ml. acetone is stirred continuously for 18 hours, at 25° C. The reaction mixture is then made basic by adding solid sodium bicarbonate, and most of the solvent is removed by evaporation under reduced pressure. The concentrated material thus obtained is ectracted four times with 20 ml. portions of methylene chloride. The extracts are combined and the methylene chloride is removed by evaporation under reduced pressure. A gummy residue is obtained that is dissolved in diethyl ether. The ether solution is treated with hydrogen chloride in ether. A precipitate forms which is collected on a filter and recrystallized from a mixture of methylene chloride and ethyl acetate. There is thus obtained 0.53 gm. (74% yield) of 4-methylamino-4-phenylcyclohexanone hydrochloride having a melting range from 218° to 220° C.

reactant | 4-methylamino-4-phenylcyclohexanone | 0.0035 mole | CNC1(CCC(CC1)=O)C1=CC=CC=C1 | C13H17NO
reactant | hydrochloric acid | 2.5 N | Cl | ClH
reactant | acetone | CC(=O)C | C3H6O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | ether | CCOCC | C4H10O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-methylamino-4-phenylcyclohexanone hydrochloride | 74% yield | Cl.CNC1(CCC(CC1)=O)C1=CC=CC=C1 | InChI=1S/C13H17NO.ClH/c1-14-13(9-7-12(15)8-10-13)11-5-3-2-4-6-11;/h2-6,14H,7-10H2,1H3;1H
